US08877782B2
a) 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid
As described for example 41a, 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (3.3 g, 10 mmol), instead of (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid ethyl ester, was converted, to the title compound (3.0 g, 95%) which was obtained as an off white solid. MS: m/e=327.4 [M−H]−.

reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 10 mmol, 3.3 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1CC(CCC1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C26H30N4O5
product | 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 3.0 g, 95% | FC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
